US07816344B2
(2S)-4-Bromo-2-tert-butoxycarbonylamino-butyric acid methyl ester
Et3N (6.5 mL, 47 mmol) followed by Boc2O (4.09 g, 18.8 mmol) were added to a solution of 2-amino-4-bromo-butyric acid methyl ester hydrobromide (5.2 g, 19 mmol) in CH2Cl2 (100 mL) at rt. The reaction mixture was stirred O/N at rt and then quenched with H2O (100 mL). The aqueous layer was extracted with CH2Cl2, dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (20% EtOAc in hexane) to give the title compound as a colorless liquid: yield 3.1 g (56%).

reactant | Et3N | 47 mmol, 6.5 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 18.8 mmol, 4.09 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-4-bromo-butyric acid methyl ester hydrobromide | 19 mmol, 5.2 g | Br.COC(C(CCBr)N)=O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (2S)-4-Bromo-2-tert-butoxycarbonylamino-butyric acid methyl ester | COC([C@H](CCBr)NC(=O)OC(C)(C)C)=O | C10H18BrNO4
